US05591862
According to the method described for Reference Example 45, 4-chloromethyl-2-(furan-2-yl)-5-methyloxazole was allowed to react with 4-(4hydroxyphenyl)butyronitrile to give 4-[4-[2-(furan-2yl)-5-methyl-4-oxazolylmethoxy]phenyl]butyronitrile as an oily product. NMR(δ ppm in CDCl3): 1.85-2.05(2H,m), 2.31(2H,t,J=7Hz), 2.42(3H,s), 2.72(2H,t,J=7.5Hz), 4.97(2H,s), 6.52(1H,dd,J=3.5&2Hz), 6.9-7.0(3H,m), 7.10(2H,d,J=9Hz), 7.53(1H,dd,J=2&1Hz).

reactant | 4-chloromethyl-2-(furan-2-yl)-5-methyloxazole | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | 4-(4hydroxyphenyl)butyronitrile | OC1=CC=C(C=C1)CCCC#N | C10H11NO
product | 4-[4-[2-(furan-2yl)-5-methyl-4-oxazolylmethoxy]phenyl]butyronitrile | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CCCC#N)C | C19H18N2O3
